US07842696B2
Pyridine (64 μl, 0.80 mmol) was added to an ice cooled mixture of salicylic acid (10 mg, 0.72 mmol) and methylene chloride (10 mL). After 5 minutes, acetic anhydride (10 μl, 1.09 mmoles) was added. The resulting mixture was stirred at room temperature for 4 hrs. The product was extracted with methylene chloride and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford 2-acetoxybenzoic acid in 76% yield.

reactant | Pyridine | 0.80 mmol, 64 μl | N1=CC=CC=C1 | C5H5N
reactant | salicylic acid | 0.72 mmol, 10 mg | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | acetic anhydride | 1.09 mmoles, 10 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-acetoxybenzoic acid | 76% yield | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
